US08097759B2
5-Chloro-2-hydroxy-N-[2-nitro-5-(trifluoromethyl)phenyl]benzamide (Compound No. 116)
Using 5-chlorosalicylic acid and 2-nitro-5-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2-nitro-5-(trifluoromethyl)aniline | [N+](=O)([O-])C1=C(N)C=C(C=C1)C(F)(F)F | C7H5F3N2O2
product | 5-Chloro-2-hydroxy-N-[2-nitro-5-(trifluoromethyl)phenyl]benzamide | Yield: 8.1% | ClC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)[N+](=O)[O-])C1)O | C14H8ClF3N2O4
